US06187802B1
A stirred suspension of 1-[1-(3,4-dichlorophenyl)cyclobutyl]-2-(2-imidazolin-2-ylthio)ethanone hydrobromide (5 g) in acetic acid (20 ml) was heated under reflux for 18 hours then allowed to cool to ambient temperature. The solvent was removed in vacuo, the residue was allowed to stand at ambient temperature for 24 hours, and the resulting solid was triturated with ether (50 ml), collected by filtration, washed with ether (50 ml) and dried in vacuo at 50° C. for 3 hours to give 3-[1-(3,4-dichlorophenyl)cyclobuty]-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide as a white solid (4.5 g), m.p. 241-244° C.

reactant | 1-[1-(3,4-dichlorophenyl)cyclobutyl]-2-(2-imidazolin-2-ylthio)ethanone hydrobromide | 5 g | Br.ClC=1C=C(C=CC1Cl)C1(CCC1)C(CSC=1NCCN1)=O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-[1-(3,4-dichlorophenyl)cyclobuty]-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 4.5 g | Br.ClC=1C=C(C=CC1Cl)C1(CCC1)C=1N2C(SC1)=NCC2 | InChI=1S/C15H14Cl2N2S.BrH/c16-11-3-2-10(8-12(11)17)15(4-1-5-15)13-9-20-14-18-6-7-19(13)14;/h2-3,8-9H,1,4-7H2;1H
